US07572809B2
b) Preparation of 2-Hydroxyimino-6-methoxy-3-oxo-indan-5-carboxylic acid amide
To a solution of 6-Methoxy-3-oxo-indan-5-carboxylic acid amide (3 g, 14.6 mmol) in the methanol (50 ml) was added n-butylnitrite (1.8 ml, 16.06 mmol), followed by concentrated HCl (1.2 ml). The solution was stirred at r.t overnight during which time a precipitate was formed. The precipitate was collected and dried to yield product as a yellow solid (2.78 g, 81.37%). LC-MS: m/e 235(MH+).

reactant | 6-Methoxy-3-oxo-indan-5-carboxylic acid amide | 14.6 mmol, 3 g | COC1=C(C=C2C(CCC2=C1)=O)C(=O)N | C11H11NO3
reactant | n-butylnitrite | 16.06 mmol, 1.8 ml | C(CCC)ON=O | C4H9NO2
reactant | HCl | 1.2 ml | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | 2-Hydroxyimino-6-methoxy-3-oxo-indan-5-carboxylic acid amide | 2.78 g, 81.37% | ON=C1CC2=CC(=C(C=C2C1=O)C(=O)N)OC | C11H10N2O4
